US08222416B2
To a mixture of toluene-4-sulfonic acid 1-(1-benzenesulfonyl-5-tert-butoxycarbonylamino-1H-pyrrolo[2,3-b]pyridin-2-yl)-2-cyclopentyl-vinyl ester (0.5 g, 0.78 mmol), 4-methylsulfonyl phenylboronic acid (468 mg, 2.34 mmol), dichlorobis(triphenylphosphine)palladium (II) (55 mg, 0.08 mmol) in dioxane (5 mL) was added an aqueous sodium carbonate solution (2 M, 1.17 mL, 2.34 mmol). The resulting mixture was subjected to microwave irradiation for 3 h at 100° C. The mixture was diluted with ethyl acetate (80 mL), washed with a saturated aqueous sodium bicarbonate solution (2×20 mL), brine, dried over anhydrous sodium sulfate and then concentrated in vacuo. Purification by flash column chromatography (QingDao silica gel, 200-300 mesh, 33% ethyl acetate/hexanes) afforded {1-benzenesulfonyl-2-[2-cyclopentyl-1-(4-methanesulfonyl-phenyl)-vinyl]-1H-pyrrolo[2,3-b]pyridin-5-yl}-carbamic acid tert-butyl ester (326 mg, 67%) as a light yellow solid: LC/MS m/e calcd for C32H35N3O6S2 [M+H]+ 622.78, observed 622.1.

reactant | toluene-4-sulfonic acid 1-(1-benzenesulfonyl-5-tert-butoxycarbonylamino-1H-pyrrolo[2,3-b]pyridin-2-yl)-2-cyclopentyl-vinyl ester | 0.78 mmol, 0.5 g | C1(=CC=CC=C1)S(=O)(=O)N1C(=CC=2C1=NC=C(C2)NC(=O)OC(C)(C)C)C(=CC2CCCC2)OS(=O)(=O)C2=CC=C(C=C2)C | C32H35N3O7S2
reactant | 4-methylsulfonyl phenylboronic acid | 2.34 mmol, 468 mg | CS(=O)(=O)C1=CC=C(C=C1)B(O)O | C7H9BO4S
reactant | sodium carbonate | 2.34 mmol, 2 M, 1.17 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | 80 mL | C(C)(=O)OCC | C4H8O2
catalyst | dichlorobis(triphenylphosphine)palladium | 0.08 mmol, 55 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | {1-benzenesulfonyl-2-[2-cyclopentyl-1-(4-methanesulfonyl-phenyl)-vinyl]-1H-pyrrolo[2,3-b]pyridin-5-yl}-carbamic acid tert-butyl ester | 326 mg, 67% | C(C)(C)(C)OC(NC=1C=C2C(=NC1)N(C(=C2)C(=CC2CCCC2)C2=CC=C(C=C2)S(=O)(=O)C)S(=O)(=O)C2=CC=CC=C2)=O | C32H35N3O6S2
